US05827855
(4R,6R)-6-{2-[(1S,2S,6S,8S,8aR)-1,2,6,7,8,8a-Hexahydro-6-t-butyldimethylsilyloxy-8-(3,3-dimethylbutyryloxy)-2-methyl-1-naphthyl]ethyl}tetrahydro-4-t-butyldimethylsilyloxy-2H-pyran-2-one
0.46 ml (3.6 mmol) of 3,3-dimethylbutyric acid, 741 mg (3.6 mmol) of dicyclohexyl carbodiimide and 13 mg (0.09 mmol) of 4-(1-pyrrolidinyl)pyridine were added to a solution of 1.00 g (1.8 mmol) of (4R,6R)-6-{2-[(1S,2S,6S,8S,8aR)-1,2,6,7,8,8a-hexahydro-6-t-butyldimethylsilyloxy-8-hydroxy-2-methyl-1-naphthyl]ethyl}tetrahydro-4-t-butyldimethylsilyloxy-2H-pyran-2-one [prepared as described in Example B, above] in 15 ml of methylene chloride, whilst ice-cooling. The resulting mixture was stirred at the same temperature for 30 minutes and then stirred at room temperature for a further 19 hours. At the end of this time, the solvent was removed by distillation under reduced pressure and the resulting residue was mixed with 20 ml of diethyl ether. Any insoluble material was removed by filtration and then washed twice with diethyl ether, using 5 ml for each washing. The filtrate and the washings were then combined and the solvent was removed by distillation under reduced pressure. The resulting residue was purified by flash column chromatography through silica gel, using a 4:1 by volume mixture of hexane and ethyl acetate as the eluent, to give 555 mg (47% yield) of the title compound.

reactant | 3,3-dimethylbutyric acid | 3.6 mmol, 0.46 ml | CC(CC(=O)O)(C)C | C6H12O2
reactant | dicyclohexyl carbodiimide | 3.6 mmol, 741 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 4-(1-pyrrolidinyl)pyridine | 0.09 mmol, 13 mg | N1(CCCC1)C1=CC=NC=C1 | C9H12N2
reactant | (4R,6R)-6-{2-[(1S,2S,6S,8S,8aR)-1,2,6,7,8,8a-hexahydro-6-t-butyldimethylsilyloxy-8-hydroxy-2-methyl-1-naphthyl]ethyl}tetrahydro-4-t-butyldimethylsilyloxy-2H-pyran-2-one | 1.8 mmol, 1.00 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=C2C=C[C@@H]([C@@H]([C@H]2[C@H](C1)O)CC[C@@H]1C[C@H](CC(O1)=O)O[Si](C)(C)C(C)(C)C)C | C30H54O5Si2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | (4R,6R)-6-{2-[(1S,2S,6S,8S,8aR)-1,2,6,7,8,8a-Hexahydro-6-t-butyldimethylsilyloxy-8-(3,3-dimethylbutyryloxy)-2-methyl-1-naphthyl]ethyl}tetrahydro-4-t-butyldimethylsilyloxy-2H-pyran-2-one | 555 mg, 47% yield | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=C2C=C[C@@H]([C@@H]([C@H]2[C@H](C1)OC(CC(C)(C)C)=O)CC[C@@H]1C[C@H](CC(O1)=O)O[Si](C)(C)C(C)(C)C)C | C36H64O6Si2
